US07846959B2
To a solution of 1,1-dimethylethyl (3-ethynyl-2-fluorophenyl)carbamate (10.5 g, 44.6 mmol) in dichloromethane (100 mL) was added trifluoroacetic acid (20 mL). The solution was stirred at room temperature for 1 hr, and was then concentrated in-vacuo. The resultant residue was partition between sodium bicarbonate and ether. The organic portion was washed with brine, dried over sodium sulfate, filtered and concentrated in-vacuo to afford a brown residue. The residue was diluted with isopropanol (10 mL) and 4N HCl in dioxane (8 mL) was added. The recrystallized product was collected by vacuum filtration to afford 3.7 g, 21 mmol (68%) of 3-ethynyl-2-fluoroaniline hydrochloride as a pale brown solid. 1H NMR (400 MHz, d6-DMSO): 7.08-6.91 (m, 3H), 4.45 (s, 1H); MS (EI) for C8H6FN: 136 (MH+).

reactant | 1,1-dimethylethyl (3-ethynyl-2-fluorophenyl)carbamate | 44.6 mmol, 10.5 g | C(#C)C=1C(=C(C=CC1)NC(OC(C)(C)C)=O)F | C13H14FNO2
reactant | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
solvent | HCl | 4N | Cl | ClH
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | 3-ethynyl-2-fluoroaniline hydrochloride | 21 mmol, 3.7 g, 68% | Cl.C(#C)C=1C(=C(N)C=CC1)F | InChI=1S/C8H6FN.ClH/c1-2-6-4-3-5-7(10)8(6)9;/h1,3-5H,10H2;1H
